US06703422B2
Under nitrogen atmosphere, to a solution of lithium aluminum hydride (1.0 M solution in diethyl ether, 60 mL, 60 mmol) in diethyl ether (150 mL) was added a solution of 6-(5-ethoxycarbonyl-5-phenylhexylsulfanyl)-2-methyl-2-phenyl-hexanoic acid ethyl ester (9.45 g, 18 mmol) in anhydrous diethyl ether (50 mL). The reaction mixture was heated to reflux for 3 h and was stirred at rt overnight. The excess of lithium aluminum hydride was carefully quenched by addition of ethyl acetate (20 mL) and the precipitate was completely dissolved with 6 N HCl (10 mL) and water (100 mL). The mixture was extracted with diethyl ether (4′ 60 mL). The combined organic layers were washed with saturated NH4Cl solution (20 mL), dried over MgSO4, and concentrated in vacuo to give a crude product (6.9 g). Purification by column chromatography on silica gel (hexanes/ethyl acetate=10/1) yielded 6-(6-hydroxy-5-methyl-5-phenylhexylsulfanyl)-2-methyl-2-phenylhexan-1-ol (5.36 g, 69%) as a yellow oil. 1H NMR (300 MHz, CDCl3/TMS): d (ppm): 7.40-7.13 (m, 10H), 3.69 (d, J=11.0 Hz, 2H), 3.53 (d, J=11.0 Hz, 2H), 2.38 (t, J=7.3 Hz, 4H), 1.85-1.63 (m, 2H), 1.60 (br., 2H), 1.58-1.40 (m, 6H), 1.40-1.20 (m, 2H), 1.34 (s, 6H), 1.15-0.93 (m, 2H). 13C NMR (75 MHz, CDCl3/TMS): d (ppm): 144.63, 128.43, 126.62, 126.14, 72.42, 43.34, 37.91, 31.85, 30.31, 23.16, 21.53. HRMS (HR, LSIMS, gly): Calcd. for C26H39O2S, (MH+): 415.2671, found: 415.2670. HPLC: 97.3% purity.

reactant | lithium aluminum hydride | 60 mmol, 1.0 M, 60 mL | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 6-(5-ethoxycarbonyl-5-phenylhexylsulfanyl)-2-methyl-2-phenyl-hexanoic acid ethyl ester | 18 mmol, 9.45 g | C(C)OC(C(CCCCSCCCCC(C)(C1=CC=CC=C1)C(=O)OCC)(C1=CC=CC=C1)C)=O | C30H42O4S
solvent | diethyl ether | 150 mL | C(C)OCC | C4H10O
solvent | diethyl ether | 50 mL | C(C)OCC | C4H10O
product | 6-(6-hydroxy-5-methyl-5-phenylhexylsulfanyl)-2-methyl-2-phenylhexan-1-ol | 5.36 g, 69% | OCC(CCCCSCCCCC(CO)(C1=CC=CC=C1)C)(C1=CC=CC=C1)C | C26H38O2S
